US08058285B2
Synthesis of 4-ethoxy-9-methyl-7-(4-iso-propoxy-phenyl)-2-piperazin-1-yl-thieno[2,3-d:4,5-d′]dipyrimidine
0.1 g (0.24 mmol) 2-chloro-4-ethoxy-9-methyl-7-(4-iso-propoxy-phenyl)-thieno[2,3-d:4,5-d′]dipyrimidine and 83 mg (0.96 mmol) piperazine are refluxed in 40 ml dioxane for 4 h. Thereafter, the solvent is removed and the residue is suspended in water and sucked off. Following flash chromatography (chloroform/ethanol 10:2) 20 mg (18%) of the title substance is obtained.

reactant | 2-chloro-4-ethoxy-9-methyl-7-(4-iso-propoxy-phenyl)-thieno[2,3-d:4,5-d′]dipyrimidine | 0.24 mmol, 0.1 g | ClC=1N=C(C2=C(N1)C1=C(N=C(N=C1C)C1=CC=C(C=C1)OC(C)C)S2)OCC | C20H19ClN4O2S
reactant | piperazine | 0.96 mmol, 83 mg | N1CCNCC1 | C4H10N2
solvent | dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 4-ethoxy-9-methyl-7-(4-iso-propoxy-phenyl)-2-piperazin-1-yl-thieno[2,3-d:4,5-d′]dipyrimidine | C(C)OC=1C2=C(N=C(N1)N1CCNCC1)C1=C(N=C(N=C1C)C1=CC=C(C=C1)OC(C)C)S2 | C24H28N6O2S
